US06977262B2
4-(2-Chlorophenyl)-5-cyano-4,7-dihydro-6-(trans-2-ethoxycarbonylethenyl)-2H-pyrazolo[3,4-b]pyridine
To a suspension of sodium hydride (94 mg) in dimethoxyethane (10 ml) was added ethyl diethylphosphonoacetate (528 mg) and the mixture was stirred at room temperature for 15 minutes. Under ice-cooling, 4-(2-chlorophenyl)-5-cyano-6-formyl-4,7-dihydro-2H-pyrazolo[3,4-b]pyridine (670 mg) was added to the mixture, and the mixture was stirred at the same temperature for 1 hour. Water was added to the reaction mixture and the mixture was extracted with ethyl acetate. The extract was washed with a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate. The solvent was evaporated and the obtained residue was purified by silica gel column chromatography (eluent:hexane-ethyl acetate (1:1)) to give the title compound (560 mg) as yellow crystals.

reactant | sodium hydride | 94 mg | [H-].[Na+]
reactant | ethyl diethylphosphonoacetate | 528 mg | C(C)OP(=O)(OCC)CC(=O)OCC | C8H17O5P
reactant | 4-(2-chlorophenyl)-5-cyano-6-formyl-4,7-dihydro-2H-pyrazolo[3,4-b]pyridine | 670 mg | ClC1=C(C=CC=C1)C1C=2C(NC(=C1C#N)C=O)=NNC2 | C14H9ClN4O
reactant | Water | O | H2O
solvent | dimethoxyethane | 10 ml | C(OC)COC | C4H10O2
product | 4-(2-Chlorophenyl)-5-cyano-4,7-dihydro-6-(trans-2-ethoxycarbonylethenyl)-2H-pyrazolo[3,4-b]pyridine | 560 mg | ClC1=C(C=CC=C1)C1C=2C(NC(=C1C#N)\C=C\C(=O)OCC)=NNC2 | C18H15ClN4O2
